US05510366
(3) 4-Acetoxy-5-allyl-1-benzyl-2,3-dihydro-3,3,7-trimethyl-1H-indol-2-one
2.5 g (50.9 mmol) of acetic anhydride was added to a solution of 8.2 g (25.5 mmol) of 5-allyl-1-benzyl-2,3-dihydro-4-hydroxy-3,3,7-trimethyl-1H-indol-2-one and 250 mg (2.0 mmol) of N,N-dimethylaminopyridine in 80 ml of pyridine under cooling with ice, and the mixture was stirred overnight at room temperature. The reaction mixture was poured into ice water, washed with 10% hydrochloric acid, washed with water, and dried. The solvent was evaporated and the residue was purified by column chromatography (silica gel, 5:1 mixture of n-hexane and ethyl acetate) to obtain 8.0 g (yield, 85.2%) of colorless needles of the title compound.

reactant | acetic anhydride | 50.9 mmol, 2.5 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-allyl-1-benzyl-2,3-dihydro-4-hydroxy-3,3,7-trimethyl-1H-indol-2-one | 25.5 mmol, 8.2 g | C(C=C)C=1C(=C2C(C(N(C2=C(C1)C)CC1=CC=CC=C1)=O)(C)C)O | C21H23NO2
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 4-Acetoxy-5-allyl-1-benzyl-2,3-dihydro-3,3,7-trimethyl-1H-indol-2-one | C(C)(=O)OC1=C2C(C(N(C2=C(C=C1CC=C)C)CC1=CC=CC=C1)=O)(C)C | C23H25NO3
